US05688929
Preparation of octyl α-D-galactopyranoside uronic acid
50 g (0.15 mole) of sodium octyl α-D-galactopyranoside uronate prepared according to Example 12 are solubilized in water (30% solution). After passing through 400 ml of a cationic resin of the IR 120 H+ type and concentrating under vacuum, α-D-galactopyranoside uronic acid, whose physicochemical characteristics are indicated below, is quantitatively recovered in the form of a gum:

reactant | sodium octyl α-D-galactopyranoside uronate | 0.15 mole, 50 g | O([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)C(=O)[O-])CCCCCCCC.[Na+]
solvent | water | O | H2O
product | octyl α-D-galactopyranoside uronic acid | O([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)C(=O)O)CCCCCCCC | C14H26O7
